US04983724
1-t-butyldimethylsilyloxy-5-benzoyl-3-trifluoromethanesulfonyloxy-2-deoxy-2,2-difluoroxylose.
To a solution of 2.3 gm (5.9 mMol) 1-t-butyldimethylsilyloxy-5-benzoyl-2-deoxy-2,2-difluoroxylose in dichloromethane (100 mL) were added 7.2 mL (88.5 mMol) pyridine and the reaction mixture was cooled to -20° C. To this was then added a solution of 1.5 mL (8.9 mMol) trifluoromethanesulfonic anhydride in dichloromethane (20 mL) dropwise at such a rate as to maintain the temperature between -5° and -20° C. The reaction mixture was stirred for 40 minutes at -15° C. The reaction mixture was then allowed to warm to room temperature and was washed with saturated aqueous sodium bicarbonate. The remaining organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 2.8 gm (90%) of the desired compound as a yellow oil. FD-MS: m/e=463(M-57, loss of t-butyl).

reactant | 1-t-butyldimethylsilyloxy-5-benzoyl-2-deoxy-2,2-difluoroxylose | 5.9 mMol, 2.3 gm | [Si](C)(C)(C(C)(C)C)OC(=O)C([C@@H](O)[C@H](O)C(O)C(C1=CC=CC=C1)=O)(F)F | C18H26F2O6Si
reactant | pyridine | 88.5 mMol, 7.2 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 8.9 mMol, 1.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-t-butyldimethylsilyloxy-5-benzoyl-3-trifluoromethanesulfonyloxy-2-deoxy-2,2-difluoroxylose | 2.8 gm, 90% | [Si](C)(C)(C(C)(C)C)OC(=O)C([C@@](O)([C@H](O)C(O)C(C1=CC=CC=C1)=O)OS(=O)(=O)C(F)(F)F)(F)F | C19H25F5O9SSi
